US07230098B2
3-(2-Chloro-3,6-difluoro-benzyloxy)-5-[4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)-phenyl]-pyridin-2-ylamine was prepared following procedure 3 from 5-bromo-3-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-2-ylamine and 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]isothiazolidine 1,1-dioxide.

reactant | 5-bromo-3-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-2-ylamine | BrC=1C=C(C(=NC1)N)OCC1=C(C(=CC=C1F)F)Cl | C12H8BrClF2N2O
reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]isothiazolidine 1,1-dioxide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1S(CCC1)(=O)=O)C | C15H22BNO4S
product | 3-(2-Chloro-3,6-difluoro-benzyloxy)-5-[4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)-phenyl]-pyridin-2-ylamine | ClC1=C(COC=2C(=NC=C(C2)C2=CC=C(C=C2)N2S(CCC2)(=O)=O)N)C(=CC=C1F)F | C21H18ClF2N3O3S
